US06291482B1
(1) Synthesis of 3-formyl-6-(3-pyridylmethyl)-2H-1-benzopyran
2.21 g of potassium carbonate and 2.20 ml of acrolein were added to a solution of 3.50 g (16.4 mmol) of 3-(3′-formyl-4′-hydroxybenzyl)pyridine in 1,4-dioxane (40 ml) and the mixture was heated at 100° C. for 30 minutes. Then, the resultant reaction mixture was filtered by using Celite (Trademark) and the filtrate was evaporated in vacuo. The residue was purified by a silica gel column chromatography (i.e., hexane: ethyl acetate=2:1 to 1:2) to obtain 3.88 g (yield=94.3%) of the desired compound as a yellow crystal.

reactant | potassium carbonate | 2.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | acrolein | 2.20 ml | C(=O)C=C | C3H4O
reactant | 3-(3′-formyl-4′-hydroxybenzyl)pyridine | 16.4 mmol, 3.50 g | C(=O)C=1C=C(CC=2C=NC=CC2)C=CC1O | C13H11NO2
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 3-formyl-6-(3-pyridylmethyl)-2H-1-benzopyran | 3.88 g, yield=94.3% | C(=O)C=1COC2=C(C1)C=C(C=C2)CC=2C=NC=CC2 | C16H13NO2
